US07547691B2
(C). Preparation of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid tri-hydrochloride
Aqueous 2 N LiOH (1.1 mL, 2.2 mmol) is added to a stirred solution of 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methyl ester (280 mg, 0.610 mmol) in water (3 mL), MeOH (6 mL) and THF (12 mL). The mixture is heat at 70° C. for 2 hours. While at 70° C., 5 N HCl (1 mL) is added to the solution, then the solution is allowed to cool to room temperature. After concentration, the yellow solid is suspended in THF (20 mL), sonicated, filtered, and dried to give the title compound as a solid (320 mg, 94% yield).

reactant | LiOH | 2.2 mmol, 2 N, 1.1 mL | [Li+].[OH-]
reactant | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid methyl ester | 0.610 mmol, 280 mg | COC(=O)C1=CC=CC=2SC(=CC21)C2=NC(=NC=C2Cl)NCCCN2CCN(CC2)C | C22H26ClN5O2S
reactant | HCl | 5 N, 1 mL | Cl | ClH
solvent | water | 3 mL | O | H2O
solvent | MeOH | 6 mL | CO | CH4O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 2-{5-chloro-2-[3-(4-methylpiperazin-1-yl)-propylamino]-pyrimidin-4-yl}-benzo[b]thiophene-4-carboxylic acid tri-hydrochloride | 320 mg, 94% yield | Cl.Cl.Cl.ClC=1C(=NC(=NC1)NCCCN1CCN(CC1)C)C1=CC2=C(S1)C=CC=C2C(=O)O | InChI=1S/C21H24ClN5O2S.3ClH/c1-26-8-10-27(11-9-26)7-3-6-23-21-24-13-16(22)19(25-21)18-12-15-14(20(28)29)4-2-5-17(15)30-18;;;/h2,4-5,12-13H,3,6-11H2,1H3,(H,28,29)(H,23,24,25);3*1H
